US06180630B2
2-(4-Methoxyphenyl)-2,5,6,7,8,9-hexahydropyrazolo[4,3-c]cinnolin-3-one
4-Chloro-5,6,7,8-tetrahydrocinnoline-3-carboxylic acid ethyl ester (0.5 g), 4-methoxyphenylhydrazine hydrochloride (0.37 g) and potassium carbonate (0.29 g) in xylene were heated under reflux for 3 h. The solid was collected by filtration, washed with hexane, then water. The residue was absorbed onto silica and purified by flash chromatography using a gradient elution: CH2Cl2 (250 ml), CH2Cl2/(MeOH/NH3 10:1) 99:1 (250 ml), CH2Cl2/(MeOH/NH3 10:1) 98:2 (250 ml), CH2Cl2/(MeOH/NH3 10:1) 97:3 (250 ml), CH2Cl2/(MeOH/NH3 10:1) 96:4 (250 ml), CH2Cl2/(MeOH/NH3 10:1) 95:5 (250 ml). The appropriate fractions were combined and evaporated under reduced pressure to give a solid (79 mg, 13%). δH (360 MHz; DMSO) 1.83 (4H, m, CH2), 2.67 (2H, t, J=5.3 Hz, CH2), 2.72 (2H, d, J=5.3 Hz, CH2), 3.78 (3H, s, OCH3), 7.02 (2H, d, J=9 Hz, ArH), 8.06 (2H, d, J=9 Hz, CH2), m/z (ESP+) 297 (MH+).

reactant | 4-Chloro-5,6,7,8-tetrahydrocinnoline-3-carboxylic acid ethyl ester | 0.5 g | C(C)OC(=O)C=1N=NC=2CCCCC2C1Cl | C11H13ClN2O2
reactant | 4-methoxyphenylhydrazine hydrochloride | 0.37 g | Cl.COC1=CC=C(C=C1)NN
reactant | potassium carbonate | 0.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(4-Methoxyphenyl)-2,5,6,7,8,9-hexahydropyrazolo[4,3-c]cinnolin-3-one | 79 mg, 13% | COC1=CC=C(C=C1)N1N=C2C(=NNC=3CCCCC23)C1=O | C16H16N4O2
